US07384967B2
(2-Amino-4-fluoro-phenyl)-thiophen-2-yl-methanone was (618 g, 28%) was prepared from 2-amino-4-fluoro-benzoic acid (1.55 g, 10 mmol) following the general procedure S. N-[5-Fluoro-2-(thiophene-2-carbonyl)-phenyl]-N′-(thiazol-2-yl)urea (113 mg, 65%) was prepared from (2-amino-4-fluoro-phenyl)-thiophen-2-yl-methanone (110 mg, 0.5 mmol) and 2-aminothiazole (0.060 g, 0.6 mmol) following the general procedure D.

reactant | (2-Amino-4-fluoro-phenyl)-thiophen-2-yl-methanone | NC1=C(C=CC(=C1)F)C(=O)C=1SC=CC1 | C11H8FNOS
reactant | 2-amino-4-fluoro-benzoic acid | 10 mmol, 1.55 g | NC1=C(C(=O)O)C=CC(=C1)F | C7H6FNO2
reactant | (2-amino-4-fluoro-phenyl)-thiophen-2-yl-methanone | 0.5 mmol, 110 mg | NC1=C(C=CC(=C1)F)C(=O)C=1SC=CC1 | C11H8FNOS
reactant | 2-aminothiazole | 0.6 mmol, 0.060 g | NC=1SC=CN1 | C3H4N2S
product | N-[5-Fluoro-2-(thiophene-2-carbonyl)-phenyl]-N′-(thiazol-2-yl)urea | 113 mg, 65% | FC=1C=CC(=C(C1)NC(=O)NC=1SC=CN1)C(=O)C=1SC=CC1 | C15H10FN3O2S2
